US05910498
Methyl 7-chloro-6-fluoro-1-(4-fluoro-3-nitrophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate
To 25 ml of methanol was added dropwise 1 g of thionyl chloride. To the solution was added 1.1 g of 7-chloro-6-fluoro-1-(4-fluoro-3-nitrophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid. The solution was heated at reflux overnight. The reaction solution was allowed to cool down and concentrated in vacua. Diethyl ether was added to the residue. The solid was collected by filtration to give 1.4 g of the title compound.

reactant | thionyl chloride | 1 g | S(=O)(Cl)Cl | Cl2OS
reactant | 7-chloro-6-fluoro-1-(4-fluoro-3-nitrophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 1.1 g | ClC1=C(C=C2C(C(=CN(C2=N1)C1=CC(=C(C=C1)F)[N+](=O)[O-])C(=O)O)=O)F | C15H6ClF2N3O5
reactant | methanol | 25 ml | CO | CH4O
product | Methyl 7-chloro-6-fluoro-1-(4-fluoro-3-nitrophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 1.4 g | ClC1=C(C=C2C(C(=CN(C2=N1)C1=CC(=C(C=C1)F)[N+](=O)[O-])C(=O)OC)=O)F | C16H8ClF2N3O5
